US07932272B2
3.5-Diamino-pyrazine-2-carboxylic Acid
Lithium hydroxide monohydrate (2.50 g, 59.5 mmol) was added to 3,5-diamino-pyrazine-2-carboxylic acid methyl ester (10.0 g, 59.5 mmol) described in Preparation Example AA-1 in a mixture solvent of tetrahydrofuran (100 mL), methanol (10 mL) and water (10 mL) at room temperature. The solution was stirred at room temperature for 17 hours, then, an aqueous solution of 5N sodium hydroxide (15 mL) was added thereto, followed by further stirring for 4.5 hours under reflux. The reaction solution was cooled to room temperature, and partitioned in 5N hydrochloric acid solution and ethyl acetate. The organic layer was separated, washed with brine, and then, dried over anhydrous magnesium sulfate. The organic layer was filtered, then, the solvent was evaporated in vacuo, and the title compound (3.34 g, 36%) was obtained as a crude product of a white solid.

reactant | Lithium hydroxide monohydrate | 59.5 mmol, 2.50 g | O.[OH-].[Li+]
reactant | 3,5-diamino-pyrazine-2-carboxylic acid methyl ester | 59.5 mmol, 10.0 g | COC(=O)C1=NC=C(N=C1N)N | C6H8N4O2
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 5N, 15 mL | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 3.5-Diamino-pyrazine-2-carboxylic Acid | 3.34 g, 36% | NC=1C(=NC=C(N1)N)C(=O)O | C5H6N4O2
